US07544748B2
Ethyl 2-butyl-2-cyclopentyl-3-methyl-3-oxo-propionate
A mechanically stirred suspension of sodium hydride (4.00 g of 60% dispersion in mineral oil) in anhydrous N,N-dimethylformamide (DMF, 100 mL) was treated dropwise with a solution of ethyl 2-cyclopentyl-3-methyl-3-oxo-propionate (17.7 g) in DMF (50.0 mL) at room temperature under nitrogen atmosphere. Stirring of the reaction mixture was continued at this temperature until the formation of hydrogen ended and the reaction mixture became transparent. After that the mixture was treated dropwise with a solution of 1-iodobutane (19.9 g) in DMF (50 mL) and stirred at room temperature overnight. The reaction mixture was then quenched by pouring onto a mixture of ice and 10% aqueous hydrochloric acid. The formed organic phase was separated and the aqueous phase was extracted with hexane. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator, and distilled in vacuum to give 16.1 g (70%) of the title compound.

reactant | sodium hydride | 4.00 g | [H-].[Na+]
reactant | ethyl 2-cyclopentyl-3-methyl-3-oxo-propionate | 17.7 g | C1(CCCC1)C(C(=O)OCC)C(=O)C | C11H18O3
reactant | hydrogen | [H][H] | H2
reactant | 1-iodobutane | 19.9 g | ICCCC | C4H9I
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | DMF | 50.0 mL | CN(C=O)C | C3H7NO
solvent | DMF | 50 mL | CN(C=O)C | C3H7NO
product | Ethyl 2-butyl-2-cyclopentyl-3-methyl-3-oxo-propionate | 16.1 g, 70% | C(CCC)C(C(=O)OCC)(C(=O)C)C1CCCC1 | C15H26O3
